US09402841B2
Step B: (R)-tert-butyl 2-(((3-(5-oxo-4,5-dihydro-1H-1,2,4-triazol-3-yl)isoquinolin-1-yl)oxy)methyl)pyrrolidine-1-carboxylate
To a crude reaction mixture containing (R)-tert-butyl 2-(((3-cyanoisoquinolin-1-yl)oxy)methyl)pyrrolidine-1-carboxylate (0.749 g) was added NMP (2 mL) and ethyl hydrazinecarboxylate (0.883 g, 8.48 mmol). The reaction mixture was heated at 175° C. overnight and was subsequently cooled, diluted with EtOAc, and washed with saturated aqueous NH4Cl followed by water. The organic layer was separated and concentrated to give the title compound, which was used without further purification.

reactant | (R)-tert-butyl 2-(((3-cyanoisoquinolin-1-yl)oxy)methyl)pyrrolidine-1-carboxylate | 0.749 g | C(#N)C=1N=C(C2=CC=CC=C2C1)OC[C@@H]1N(CCC1)C(=O)OC(C)(C)C | C20H23N3O3
reactant | NMP | 2 mL | CN1CCCC1=O | C5H9NO
reactant | ethyl hydrazinecarboxylate | 8.48 mmol, 0.883 g | N(N)C(=O)OCC | C3H8N2O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (R)-tert-butyl 2-(((3-(5-oxo-4,5-dihydro-1H-1,2,4-triazol-3-yl)isoquinolin-1-yl)oxy)methyl)pyrrolidine-1-carboxylate | O=C1NC(=NN1)C=1N=C(C2=CC=CC=C2C1)OC[C@@H]1N(CCC1)C(=O)OC(C)(C)C | C21H25N5O4
